US06852726B2
6-Chloro-3-methanesulfonyl-1H-indole (1.35 g, 5.88 mmole) was dissolved in anhydrous N-methylpyrrolidin-2-one (15 ml), cooled to 0° C. and placed under a nitrogen atmosphere. Sodium hydride (60% in oil, 0.28 g, 7 mmole) was added all at once and the mixture was stirred until the evolution of gas ceased (ca. 20-30 minutes). Ethyl bromoacetate (1.08 g, 6.47 mmole) was added all at once and the mixture was stirred for 30 minutes. The reaction mixture was partitioned between ethyl acetate and water, the organic layer was washed three times with water, dried over magnesium sulfate, filtered, and evaporated to dryness. The crude material thus obtained was purified by chromatography on silica gel, eluting with ethyl acetate-hexane (1:9) to (4:6) to afford 1.463 g of (6-chloro-3-methanesulfonyl-indol-1-yl)-acetic acid ethyl ester.

reactant | 6-Chloro-3-methanesulfonyl-1H-indole | 5.88 mmole, 1.35 g | ClC1=CC=C2C(=CNC2=C1)S(=O)(=O)C | C9H8ClNO2S
reactant | Sodium hydride | 7 mmole, 0.28 g | [H-].[Na+]
reactant | Ethyl bromoacetate | 6.47 mmole, 1.08 g | BrCC(=O)OCC | C4H7BrO2
solvent | N-methylpyrrolidin-2-one | 15 ml | CN1C(CCC1)=O | C5H9NO
product | (6-chloro-3-methanesulfonyl-indol-1-yl)-acetic acid ethyl ester | 1.463 g | C(C)OC(CN1C=C(C2=CC=C(C=C12)Cl)S(=O)(=O)C)=O | C13H14ClNO4S
